US06482986B1
4-Bromo-3,5-dichlorophenol, Compound IXa.1
100 g of 4-bromo-3,5-dichlorophenylamine are added with stirring at 5° C. to a mixture of 125 ml of water and 90 ml of concentrated sulphuric acid. 230 g of crushed ice are added to the reaction mixture, followed by 29 g of sodium nitrite in 70 ml of water, and the reaction mixture is left stirring for 15 minutes. The reaction mixture is added rapidly to a mixture composed of 280 ml of concentrated sulphuric acid and 200 ml of water raised to 160° C., and the reaction mixture is left stirring at 160° C. for 1 hour. The reaction mixture is poured onto a water/crushed ice mixture and extracted with dichloromethane. The organic phase is dried over magnesium sulphate and the solvents are evaporated off under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a 4/6 (v/v) cyclohexane/dichloromethane mixture.

reactant | 4-bromo-3,5-dichlorophenylamine | 100 g | BrC1=C(C=C(C=C1Cl)N)Cl | C6H4BrCl2N
reactant | sulphuric acid | 90 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 29 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 280 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 70 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 4-Bromo-3,5-dichlorophenol | BrC1=C(C=C(C=C1Cl)O)Cl | C6H3BrCl2O
